US08957070B2
Benzyl 3-(1,3-thiazol-2-ylethynyl)-2-[(trifluoroacetyl)amino]benzoate
To a solution of benzyl 2-amino-3-(1,3-thiazol-2-ylethynyl)benzoate (4.95 g) in tetrahydrofuran (50 mL) was added trifluoroacetic anhydride (2.26 mL), and the mixture was stirred at room temperature for 0.5 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-70:30) to give the title compound (5.80 g, yield 91%) as pale-yellow crystals.

reactant | benzyl 2-amino-3-(1,3-thiazol-2-ylethynyl)benzoate | 4.95 g | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1C#CC=1SC=CN1 | C19H14N2O2S
reactant | trifluoroacetic anhydride | 2.26 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Benzyl 3-(1,3-thiazol-2-ylethynyl)-2-[(trifluoroacetyl)amino]benzoate | 5.80 g, yield 91% | S1C(=NC=C1)C#CC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)NC(C(F)(F)F)=O | C21H13F3N2O3S
